US04466980
1.26 g (5.94 mmoles) of 4(RS)-t-butyldimethylsilyloxy-2,3-epoxy cyclopentanone and 804 mg (6.0 mmoles) of 5-hydroxy-1-pentanethiol were dissolved in 10 ml of methanol, and 606 mg (6 mmoles) of triethylamine was added. After the reaction was carried out for 10 minutes, the solvent was evaporated to give 2.1 g of a crude product. The crude product was subjected to dry column chromatography and developed with hexane/ethyl acetate (7/3) to give 710 mg (2.16 mmoles; yield 31%) of 4-t-butyldimethylsilyloxy-2-(6-hydroxyhexylthio)-2-cyclopentenone.

reactant | 4(RS)-t-butyldimethylsilyloxy-2,3-epoxy cyclopentanone | 5.94 mmoles, 1.26 g | [Si](C)(C)(C(C)(C)C)OC1C2C(C(C1)=O)O2 | C11H20O3Si
reactant | 5-hydroxy-1-pentanethiol | 6.0 mmoles, 804 mg | OCCCCCS | C5H12OS
reactant | triethylamine | 6 mmoles, 606 mg | C(C)N(CC)CC | C6H15N
reactant | methanol | 10 ml | CO | CH4O
product | 4-t-butyldimethylsilyloxy-2-(6-hydroxyhexylthio)-2-cyclopentenone | 2.16 mmoles, 710 mg, yield 31% | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)SCCCCCCO | C17H32O3SSi
